US08183380B2
rac-1-Isopropyl-3-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-urea
The title compound was prepared in accordance with the general method described in example 3 from rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine and isopropyl isocyanate; MS: m/e=405.5 (M+H+).

reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | rac-1-Isopropyl-3-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-urea | C(C)(C)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCCC2=CC=CC(=C12)OC | C24H28N4O2
